US07750038B2
5-Bromo-1-(ethylsulfonyl)indoline (1.85 g, 6.38 mmol), 1-methyl-5-cyano-2-pyrroleboronic acid (1.14 g, 7.7 mmol), KF (1.22 g, 21 mmol), and Pd2(dba)3 (154 mg, 0.16 mmol) were added to a round bottom flask under nitrogen. The flask was sealed and purged with nitrogen for 5 minutes. THF (16 mL) was added followed by a solution of tri-t-butylphosphine (10% wt in hexanes) (0.95 mL, 0.32 mmol) via syringe and the mixture was stirred vigorously at 25° C. for 5 hours. The mixture was diluted with ethyl acetate, filtered through a plug of silica gel, washed through with additional ethyl acetate and concentrated to give a crude brown/black semi-solid. Purification was performed using Isco chromatography (the Redisep® column, silica, gradient 10-60% ethyl acetate in hexane). Further purification via Isco chromatography (the Redisep® column, silica, gradient 50% hexane:45% methylene chloride:5% ethyl acetate) afforded 5-[1-(ethylsulfonyl)-2,3-dihydro-1H-indol-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile (1.2 g) as a colorless oil. MS (EI) m/z 315.8; HPLC purity 99.4% at 210-370 nm, 9.2 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes.

reactant | 5-Bromo-1-(ethylsulfonyl)indoline | 6.38 mmol, 1.85 g | BrC=1C=C2CCN(C2=CC1)S(=O)(=O)CC | C10H12BrNO2S
reactant | 1-methyl-5-cyano-2-pyrroleboronic acid | 7.7 mmol, 1.14 g | CN1C(=CC=C1C#N)B(O)O | C6H7BN2O2
reactant | KF | 21 mmol, 1.22 g | [F-].[K+]
catalyst | Pd2(dba)3 | 0.16 mmol, 154 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-[1-(ethylsulfonyl)-2,3-dihydro-1H-indol-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile | 1.2 g | C(C)S(=O)(=O)N1CCC2=CC(=CC=C12)C1=CC=C(N1C)C#N | C16H17N3O2S
